US07179823B1
After a mixture of ethyl(E)-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]propenoate (450 mg), 1N sodium hydroxide solution (1.5 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at 50° C. for 2 hours, 1N hydrochloric acid (1.5 ml) was added to the mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain (E)-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]propenoic acid (410 mg, yield: 96%). This was recrystallized from acetone-hexane. Melting point: 210–211° C.

reactant | ethyl(E)-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]propenoate | 450 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1/C=C/C(=O)OCC)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C32H29N3O5
reactant | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 1.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (E)-3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-1-(4-phenoxybenzyl)-1H-pyrazol-4-yl]propenoic acid | 410 mg, yield: 96% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NN(C=C1/C=C/C(=O)O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C30H25N3O5
